US05175157
2-[2-(N-(3-Benzyloxy-propyl)-piperid-2-yl)-ethyl]-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline hydrochloride
Prepared from 2-[2-(piperid-2-yl)-ethyl]-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline and 1-chloro-3-benzyloxy-propane analogously to Example 1.

reactant | 2-[2-(piperid-2-yl)-ethyl]-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline | N1C(CCCC1)CCN1C(C2=CC(=C(C=C2CC1)OC)OC)=O | C18H26N2O3
reactant | 1-chloro-3-benzyloxy-propane | ClCCCOCC1=CC=CC=C1 | C10H13ClO
product | 2-[2-(N-(3-Benzyloxy-propyl)-piperid-2-yl)-ethyl]-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline hydrochloride | Cl.C(C1=CC=CC=C1)OCCCN1C(CCCC1)CCN1C(C2=CC(=C(C=C2CC1)OC)OC)=O | InChI=1S/C28H38N2O4.ClH/c1-32-26-19-23-12-16-30(28(31)25(23)20-27(26)33-2)17-13-24-11-6-7-14-29(24)15-8-18-34-21-22-9-4-3-5-10-22;/h3-5,9-10,19-20,24H,6-8,11-18,21H2,1-2H3;1H
